US08877744B2
The reaction of (R)-6,6-difluoro-5,7,7-trimethyl-5-(4,3′,5′-trifluoro-biphenyl-3-yl)-[1,4]oxazepan-3-one (159 mg, 398 μmol) with Lawesson's reagent (131 mg, 319 μmol) in 1,4-dioxane (13 ml) yielded the (R)-6,6-difluoro-5,7,7-trimethyl-5-(4,3′,5′-trifluoro-biphenyl-3-yl)-[1,4]oxazepan-3-thione (142 mg, 86% yield) as a white foam. MS (ISP): m/z=416.2 [M+H]+.

reactant | (R)-6,6-difluoro-5,7,7-trimethyl-5-(4,3′,5′-trifluoro-biphenyl-3-yl)-[1,4]oxazepan-3-one | 398 μmol, 159 mg | FC1([C@](NC(COC1(C)C)=O)(C=1C=C(C=CC1F)C1=CC(=CC(=C1)F)F)C)F | C20H18F5NO2
reactant | Lawesson's reagent | 319 μmol, 131 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,4-dioxane | 13 ml | O1CCOCC1 | C4H8O2
product | (R)-6,6-difluoro-5,7,7-trimethyl-5-(4,3′,5′-trifluoro-biphenyl-3-yl)-[1,4]oxazepan-3-thione | 142 mg, 86% yield | FC1([C@](NC(COC1(C)C)=S)(C=1C=C(C=CC1F)C1=CC(=CC(=C1)F)F)C)F | C20H18F5NOS
